US04654331
5-t-Butyl-4-methyl-1,3-dioxolen-2-one
Forty-four g of a 12.5% solution of phosgene in toluene is added over 30 min to a well stirred solution of 4,4-dimethyl-2-hydroxy-3-pentanone (4.85 g, 37.3 mmol) in toluene, 90 ml, at 0°-5° C. Following this addition, a solution of pyridine, 11.4 ml, in toluene, 25 ml, is then added to the cooled reaction mixture over 30 min. After stirring at 20°-25° C. for 20 hours, the reaction mixture is washed with 3N HCl and water saturated with NaCl. The toluene extract is dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. After addition of p-toluenesulfonic acid hydrate, 100 mg, to the residue, it is stirred neat at 160° C for 24 hours. The resulting black liquid is dissolved in ethyl acetate, washed with a saturated sodium bicarbonate solution and a saturated sodium chloride solution and dried over anhydrous sodium sulfate. After filtering and concentrating under reduced pressure, the residue is distilled to give 3.5 g of product, bp 82°-4° C. at 3mm.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 4,4-dimethyl-2-hydroxy-3-pentanone | 37.3 mmol, 4.85 g | CC(C(C(C)O)=O)(C)C | C7H14O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-t-Butyl-4-methyl-1,3-dioxolen-2-one | 3.5 g | C(C)(C)(C)C1=C(OC(O1)=O)C | C8H12O3
